US06544985B2
3-[5-Propyl-4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-2-yl]-benzoic acid methyl ester (0.34 g) was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-oxo-3-[3-[5-propyl-4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-2-yl]-phenyl]-propionic acid tert-butyl ester (0.42 g) as a pale-yellow oil.

reactant | 3-[5-Propyl-4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-2-yl]-benzoic acid methyl ester | 0.34 g | COC(C1=CC(=CC=C1)C=1SC(=C(N1)COC1OCCCC1)CCC)=O | C20H25NO4S
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-oxo-3-[3-[5-propyl-4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-2-yl]-phenyl]-propionic acid tert-butyl ester | 0.42 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1SC(=C(N1)COC1OCCCC1)CCC)=O)=O | C25H33NO5S
